US04663453
1-(2-Nitrophenyl)-1,2,3,4-tetrahydroquinoline
A stirred mixture, under nitrogen of 70.6 g (0.50 mole) of 1-fluoro-2-nitrobenzene, 133.2 g (1.00 mole) of 1,2,3,4-tetrahydroquinoline and 121.2 g (1.00 mole) of symmetrical collidine in 500 ml of 1,2,3-trimethylbenzene was refluxed (bp 178°) for 5 days. The mixture was concentrated in vacuo. The residue was taken up in 1000 ml of chloroform and extracted with 500 ml of 2N-hydrochloric acid. The aqueous phase was back extracted with 250 ml of chloroform. The combined organic layers were washed 3 times with 2N-hydrochloric acid, once with 2N-sodium hydroxide solution, twice with water and dried over anhydrous sodium sulfate. The solvent was removed in vacuo. The residual oil was dissolved in 300 ml of 1:1 hexane:toluene and adsorbed on a chromatography column containing 2 kg of silica gel packed in hexane. Elution with 1:1 hexane:toluene gave fractions containing product. The fractions were combined and concentrated to afford 28.2 g (22%) of product. Recrystallization from hot isopropyl ether afforded the analytical sample, mp 69°-71° C.

reactant | 1-fluoro-2-nitrobenzene | 0.50 mole, 70.6 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,2,3,4-tetrahydroquinoline | 1.00 mole, 133.2 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | collidine | 1.00 mole, 121.2 g | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | 1,2,3-trimethylbenzene | 500 ml | CC1=C(C(=CC=C1)C)C | C9H12
product | 1-(2-Nitrophenyl)-1,2,3,4-tetrahydroquinoline | 28.2 g, 22% | [N+](=O)([O-])C1=C(C=CC=C1)N1CCCC2=CC=CC=C12 | C15H14N2O2
